US20010046991A1
4.56 ml (50 mmol) of aniline and 10.7 ml (60 mmol) of ethyl 2-isopropylacetoacetate were mixed with 50 ml of chloroform. 0.48 g (2.5 mmol) of para-toluenesulfonic acid was added, and the reaction mixture was refluxed with continuous removal of the water produced in the reaction. After 2 d chloroform was removed in vacuum, and the residue was refluxed in 10 ml of phenyl ether. After cooling, the precipitate was filtered and washed with diethyl ether to give 4-hydroxy-3-isopropyl-2-methylquinoline (21%). Following the procedure of Step 3 in Example 1, but substituting 4-hydroxy-3-isopropyl-2-methylquinoline for 9-(10H)acridone, 4-chloro-3-isopropyl-2-methylquinoline (100%) was obtained, which was reacted with 4-(4-methylpiperazin-1-yl)aniline (following the procedure of Step 4 in Example 1), to afford the title compound with 61% yield (overall yield 13%).

reactant | aniline | 50 mmol, 4.56 ml | NC1=CC=CC=C1 | C6H7N
reactant | ethyl 2-isopropylacetoacetate | 60 mmol, 10.7 ml | C(C)(C)C(C(=O)OCC)C(=O)C | C9H16O3
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
reactant | para-toluenesulfonic acid | 2.5 mmol, 0.48 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 4-hydroxy-3-isopropyl-2-methylquinoline | 21% | OC1=C(C(=NC2=CC=CC=C12)C)C(C)C | C13H15NO
